US04412077
A mixture containing 40.8 g of 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)nicotinonitrile, 50 ml of water, 75 ml of concentrated sulfuric acid and 200 ml of acetic acid was heated on a steam bath for 8 hours, cooled and concentrated on a rotary evaporator to remove the acetic acid and water. The remaining mixture was diluted with 300 ml of water and chilled for 1 hour in an ice bath. The white solid that separated was collected, washed with water and dried in a vacuum over at 80° C. and recrystallized from isopropyl alcohol-ether and dried in a vacuum oven at 90° C. to yield 34.6 g of 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)nicotinic acid, m.p. 180°-182° C.

reactant | 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)nicotinonitrile | 40.8 g | C(C)C=1NC(C(C#N)=CC1C(CC)=O)=O | C11H12N2O2
reactant | water | 50 ml | O | H2O
reactant | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)nicotinic acid | 34.6 g | C(C)C=1NC(C(C(=O)O)=CC1C(CC)=O)=O | C11H13NO4
